US08609680B2
Preparation of tert-Butyl 4-(chloromethyl)-4-formylpiperidine-1-carboxylate (SM-3a)
To a −78° C. solution of oxalyl chloride (5.1 mL, 57 mmol) in dichloromethane (100 mL) in an oven-dried round-bottomed flask was added dimethylsulfoxide (8.2 mL, 114 mmol) in dichloromethane (17 mL). The mixture was stirred for 2 minutes and tert-butyl 4-(chloromethyl)-4-(hydroxymethyl)piperidine-1-carboxylate (13.7 g, 52 mmol) in dichloromethane (50 mL) was added over 10 minutes. The solution was stirred for 15 minutes at −78° C. and triethylamine (36 mL, 260 mmol) was added. The mixture was stirred at −78° C. for 15 minutes and was warmed to room temperature. The mixture was stirred for 15 minutes at room temperature and was quenched with saturated aqueous NaHCO3 (200 mL). The aqueous solution was washed with Et2O (2×300 mL). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated under reduced pressure to give the title compound (SM-3a) as a yellow oil that solidified upon standing under nitrogen atmosphere at room temperature (13.7 g, 99%). 1H NMR (CDCl3) δ 1.43 (s, 9H), 1.48-1.60 (m, 2H), 2.00-2.07 (m, 2H), 3.07 (t, 2H), 3.57 (s, 2H), 3.69-3.79 (m, 2H), 9.55 (s, 1H).

reactant | oxalyl chloride | 57 mmol, 5.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 114 mmol, 8.2 mL | CS(=O)C | C2H6OS
reactant | tert-butyl 4-(chloromethyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 52 mmol, 13.7 g | ClCC1(CCN(CC1)C(=O)OC(C)(C)C)CO | C12H22ClNO3
reactant | triethylamine | 260 mmol, 36 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-(chloromethyl)-4-formylpiperidine-1-carboxylate | ClCC1(CCN(CC1)C(=O)OC(C)(C)C)C=O | C12H20ClNO3
